US05220018
3-Amino-(1H-tetrazole-5-yl)benzene
3-Nitro-(2-methyltetrazol-5-yl)benzene (648 mg) was dissolved in 100 ml of ethanol, treated with 0.283 g of 10% palladium/carbon catalyst, and hydrogenated on a Parr apparatus at 30 psi for 15 minutes. The reaction mixture was filtered through Celite and concentrated to give 0.469 g of the title compound.

reactant | 3-Nitro-(2-methyltetrazol-5-yl)benzene | 648 mg | [N+](=O)([O-])C=1C=C(C=CC1)C=1N=NN(N1)C | C8H7N5O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 0.283 g | [Pd] | Pd
product | 3-Amino-(1H-tetrazole-5-yl)benzene | 0.469 g | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
